US05869495
4-[2-[N-(2-Benzoxazolyl)-N-methylamino]ethoxy]phenylethanal
A solution of pyridine-sulphur trioxide complex (1.53 g) in dimethylsulphoxide (5 mL) was added to a stirred, ice cooled mixture of 2-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]ethanol (1.00 g), triethylamine (2.25 mL) and dichloromethane (30 mL) under a nitrogen atmosphere. The mixture was stirred at 0° C. for 10 minutes, then at room temperature for 5 hours before being diluted with dichloromethane (100 mL) and washed with water (2×100 mL), hydrochloric acid (0.5M; 100 mL), water (2×100 mL) and brine (100 mL), dried (MgSO4) and evaporated. The residue was chromatographed on silica gel with 5% ethyl acetate in dichloromethane as solvent to afford the title compound, a gum.

reactant | 2-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]ethanol | 1.00 g | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CCO | C18H20N2O3
reactant | triethylamine | 2.25 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylsulphoxide | 5 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 4-[2-[N-(2-Benzoxazolyl)-N-methylamino]ethoxy]phenylethanal | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC=O | C18H18N2O3
